US09278951B2
Synthesis of 1-(pyren-2-ylmethyl)-3-(quinolin-2-ylmethyl)-4,5-dichloroimidazolium chloride
4,5-Dichloroimidazole (0.18 g, 1.33 mmol) and potassium hydroxide (0.08 g, 1.46 mmol) will be dissolved in a minimum volume of acetonitrile and stirred at reflux for 30 min. 2-(Bromomethyl)pyrene (2.95 g, 10.0 mmol) will be added and the mixture will be returned to reflux for 3 h. The mixture will be filtered hot to remove the KBr generated. A solution of 2-(chloromethyl)quinoline will be prepared by combining 2-(chloromethyl)quinolone hydrochloride (2.14 g, 10 mmol) and potassium hydroxide (0.56 g, 10.0 mmol) in acetonitrile and refluxing the mixture for 30 min, and this solution will be added to the filtrate. The combined mixture will be returned to reflux for 6 h. The volatile components will be removed under reduced pressure, and the resulting solid will be washed with water to remove the KCl generated in the neutralization of the quinoline. The remaining solid will be dried and will be the product.

reactant | 4,5-Dichloroimidazole | 1.33 mmol, 0.18 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 1.46 mmol, 0.08 g | [OH-].[K+]
reactant | 2-(Bromomethyl)pyrene | 10.0 mmol, 2.95 g | BrCC1=CC2=CC=C3C=CC=C4C=CC(=C1)C2=C43 | C17H11Br
reactant | potassium hydroxide | 10.0 mmol, 0.56 g | [OH-].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
product | 1-(pyren-2-ylmethyl)-3-(quinolin-2-ylmethyl)-4,5-dichloroimidazolium chloride | [Cl-].C1=C(C=C2C=CC3=CC=CC4=CC=C1C2=C34)C[N+]3=CN(C(=C3Cl)Cl)CC3=NC4=CC=CC=C4C=C3 | InChI=1S/C30H20Cl2N3.ClH/c31-29-30(32)35(17-25-13-12-20-4-1-2-7-26(20)33-25)18-34(29)16-19-14-23-10-8-21-5-3-6-22-9-11-24(15-19)28(23)27(21)22;/h1-15,18H,16-17H2;1H/q+1;/p-1
